US06723720B2
40.6 g of 2,6-difluoroacetophenone are placed in 120 ml of chloroform, and 0.1 g of aluminium chloride is added. Then, at 0° C., 37 g of bromine in 240 ml of chloroform are added dropwise and stirring is carried out at 0° C. for 1 h. The reaction mixture is then heated to room temperature and is concentrated using a rotary evaporator. The residue is distilled over a Vigreux column. In this way 2-bromo-1-(2,6-difluorophenyl)-ethanone having a boiling point of 101-11° C. at 9 mbar is obtained.

reactant | 2,6-difluoroacetophenone | 40.6 g | CC(=O)C1=C(C=CC=C1F)F | C8H6F2O
reactant | aluminium chloride | 0.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | bromine | 37 g | BrBr | Br2
solvent | chloroform | 120 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 240 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-bromo-1-(2,6-difluorophenyl)-ethanone | BrCC(=O)C1=C(C=CC=C1F)F | C8H5BrF2O
